US08440666B2
2-[(5-Bromopyrimidin-4-yl)methyl]isoindoline-1,3-dione
5-Bromo-4-methylpyrimidine (2.90 g, 16.8 mmol) in acetic acid (40 mL) was stirred with bromine (3.18 g, 20.2 mmol) at 80° C. for 40 minutes. After completion of the reaction, the reaction solution was cooled, diluted with ethyl acetate and neutralized with water and 1 M aqueous sodium hydroxide, and the organic layer was separated, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=7/1). The resulting product (3.69 g) was dissolved in 60 mL of dimethylformamide and heated with potassium phthalimide (2.84 g, 15.3 mmol) at 80° C. for 1 hour with stirring. After completion of the reaction, the reaction solution was mixed with water and extracted with chloroform, and the extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform) to give the desired product (4.3 g, 80% yield).

reactant | 5-Bromo-4-methylpyrimidine | 16.8 mmol, 2.90 g | BrC=1C(=NC=NC1)C | C5H5BrN2
reactant | bromine | 20.2 mmol, 3.18 g | BrBr | Br2
reactant | potassium phthalimide | 15.3 mmol, 2.84 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | sodium hydroxide | 1 M | [OH-].[Na+]
product | 2-[(5-Bromopyrimidin-4-yl)methyl]isoindoline-1,3-dione | 4.3 g, 80% yield | BrC=1C(=NC=NC1)CN1C(C2=CC=CC=C2C1=O)=O | C13H8BrN3O2
